US07829580B2
(c) (E)-3-{[2-(t-Butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol
Sodium borohydride (0.27 g) was added to a solution of (E)-3-{[2-(t-butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one (3.1 g) in a mixed solvent of dichloromethane (15 ml) and ethanol (15 ml), while stirring at 0° C. After being stirred at room temperature for 1.5 hours, the mixture was partitioned between water and ethyl acetate. The organic layer was separated, washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure to afford the title compound as a yellow amorphous solid in a quantitative yield.

reactant | Sodium borohydride | 0.27 g | [BH4-].[Na+]
reactant | (E)-3-{[2-(t-butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one | 3.1 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H33N3O3S
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (E)-3-{[2-(t-Butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | quantitative yield | C(C)(C)(C)OC(=O)NC=1SC=C(N1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H35N3O3S
